US06407129B1
[3-(Benzyloxy)propyl] chloromethyl carbonate (2.0 g) was dissolved in acetonitrile (3 ml), and sodium iodide (4.6 g) was added. The mixture was stirred under a nitrogen atmosphere at 60° C. for 2 hours. The reaction mixture was poured into water (100 ml) and extracted with ethyl acetate (100 ml). The ethyl acetate layer was washed with an aqueous 5% sodium thiosulfate solution (50 ml×2), water (50 ml×2), and a saturated sodium chloride aqueous solution (50 ml). After drying over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure to obtain [3-(benzyloxy)propyl] iodomethyl carbonate (2.5 g) as a pale yellow liquid.

reactant | [3-(Benzyloxy)propyl] chloromethyl carbonate | 2.0 g | C(OCCCOCC1=CC=CC=C1)(OCCl)=O | C12H15ClO4
reactant | sodium iodide | 4.6 g | [I-].[Na+]
reactant | water | 100 ml | O | H2O
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | [3-(benzyloxy)propyl] iodomethyl carbonate | 2.5 g | C(OCCCOCC1=CC=CC=C1)(OCI)=O | C12H15IO4
